US08957102B2
(Step 2) 1-phthalimidopyrrole
A solution of N-aminophthalimide (29.0 g, 178.8 mmol) and 2,5-dimethoxytetrahydrofuran (24.2 mL, 187.8 mmol) in anhydrous dioxane (290 mL) was stirred under reflux. While heating so that the resulting solution remained yellow, 5 N hydrochloric acid solution was cautiously added. The resulting mixture was allowed to cool to room temperature. The produced solid was filtered and washed with a 1:3 solution of dioxane and water. The target compound was yielded as a white solid (34.9 g, 164.5 mmol, 92% yield).

reactant | N-aminophthalimide | 178.8 mmol, 29.0 g | NN1C(C=2C(C1=O)=CC=CC2)=O | C8H6N2O2
reactant | 2,5-dimethoxytetrahydrofuran | 187.8 mmol, 24.2 mL | COC1OC(CC1)OC | C6H12O3
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | dioxane | 290 mL | O1CCOCC1 | C4H8O2
product | 1-phthalimidopyrrole | 164.5 mmol, 34.9 g, 92% yield | C1(C=2C(C(N1N1C=CC=C1)=O)=CC=CC2)=O | C12H8N2O2
